US06528231B1
Into a separable flask equipped with a stirrer and a reflux condenser cooled with water, 7.4 g of 3,3′-dinitro-4,4′-di-2-furoylaminobiphenyl, 100 ml of N-methyl-2-pyrrolidone and 75 ml of ethyl alcohol were placed. After adding 40 ml of a saturated aqueous solution of ammonium chloride, 25.6 g of powder of indium metal was added to the prepared solution. The obtained mixture was stirred at 80° C. for 1 hour. After the reaction solution was cooled to the room temperature, the solid substance was removed by filtration. The filtrate was concentrated to about one half at a reduced pressure. To the concentrated filtrate, 300 ml of water was added and the formed solid substance was separated by filtration to obtain 2.9 g of a crude product. The crude product was purified in accordance with the silica gel column chromatography to obtain 1.5 g of 3,3′-diamino-4,4′-di-2-furoylaminobiphenyl. The yield of the isolated product was 23%. This product was recrystallized from N-methyl-2-pyrrolidone/ethyl acetate (the volume ratio: 25/75) and needle crystals having a decomposition temperature of 256 to 259° C. were obtained.

reactant | water | O | H2O
reactant | 3,3′-dinitro-4,4′-di-2-furoylaminobiphenyl | 7.4 g | [N+](=O)([O-])C=1C=C(C=CC1NC(=O)C=1OC=CC1)C1=CC(=C(C=C1)NC(=O)C=1OC=CC1)[N+](=O)[O-] | C22H14N4O8
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | indium | [In] | In
solvent | ethyl alcohol | 75 ml | C(C)O | C2H6O
solvent | N-methyl-2-pyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 3,3′-diamino-4,4′-di-2-furoylaminobiphenyl | 1.5 g | NC=1C=C(C=CC1NC(=O)C=1OC=CC1)C1=CC(=C(C=C1)NC(=O)C=1OC=CC1)N | C22H18N4O4
